US06495546B1
Under nitrogen, to a solution of (2S)-1-amino-3-phenoxy-2-propanol (280 mg) in 1,2-dichloroethane (10 ml) were added 3-chloro-5,7,8,9-tetrahydrobenzocyclohepten-6-one (300 mg), sodium triacetoxyborohydride (820 mg) and acetic acid (0.26 ml) at room temperature, and the mixture was stirred at the same temperature for 6.5 hours. The resulting mixture was poured into aqueous 1N sodium hydroxide and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (chloroform:methanol=20:1 to 10:1) and followed by treatment with 4N hydrogen chloride in ethyl acetate to give (2S)-1-(3-chloro-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino-3-phenoxy-2-propanol hydrochloride (260 mg).

reactant | (2S)-1-amino-3-phenoxy-2-propanol | 280 mg | NC[C@@H](COC1=CC=CC=C1)O | C9H13NO2
reactant | 3-chloro-5,7,8,9-tetrahydrobenzocyclohepten-6-one | 300 mg | ClC1=CC2=C(CCCC(C2)=O)C=C1 | C11H11ClO
reactant | sodium triacetoxyborohydride | 820 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 0.26 ml | C(C)(=O)O | C2H4O2
product | (2S)-1-(3-chloro-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino-3-phenoxy-2-propanol hydrochloride | 260 mg | Cl.ClC1=CC2=C(CCCC(C2)NC[C@@H](COC2=CC=CC=C2)O)C=C1 | InChI=1S/C20H24ClNO2.ClH/c21-17-10-9-15-5-4-6-18(12-16(15)11-17)22-13-19(23)14-24-20-7-2-1-3-8-20;/h1-3,7-11,18-19,22-23H,4-6,12-14H2;1H/t18?,19-;/m0./s1
